US04066661
To a stirred solution of 14.6 g. (0.1 mole) of 3-(aminomethyl) indole in 30 ml. of benzene is added dropwise 18.2 g. (0.1 mole) of trichloroacetyl chloride over a period of approximately 5 minutes. The reaction mixture is heated at reflux for 30 minutes, cooled and concentrated to dryness in vacuo. The resultant solid is broken up and ground in a mortar to give a powder which is mixed well with 20.8 g. (0.1 mole) of phosphorus pentachloride. The mixture is heated in an oil bath at 110° C. until the evolution of hydrogen chloride ceases (approximately 3 hours). The reaction mixture containing the imidoyl chloride is cooled to room temperature and dry pyridine (7.9 g., 0.1 mole) is added followed by 6.5 ml. of concentrated aqueous ammonia. The reaction mixture is then stirred and warmed to 90° C. for 30 minutes, after which 100 ml. of water is added dropwise to precipitate the product. Overnight storage in the cold affords a solid which is crystallized from benzene-hexane to provide N-(3-indolylmethyl) trichloroacetamidine m.p. 135.5° to 138.5° C.

reactant | 3-(aminomethyl) indole | 0.1 mole | NCC1=CNC2=CC=CC=C12 | C9H10N2
reactant | trichloroacetyl chloride | 0.1 mole | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | phosphorus pentachloride | 0.1 mole | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hydrogen chloride | Cl | ClH
reactant | pyridine | 0.1 mole, 7.9 g | N1=CC=CC=C1 | C5H5N
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(3-indolylmethyl) trichloroacetamidine | N1C=C(C2=CC=CC=C12)CNC(C(Cl)(Cl)Cl)=N | C11H10Cl3N3
